US08604061B2
a) (R)-2-Amino-3-phenylsulfanyl-propionic acid methyl ester hydrochloride
To a solution of S-phenyl-L-cysteine (5.0 g, 25.4 mmol) in methanol (50 ml) was added acetylchloride (2.7 ml, 38 mmol) and the mixture was refluxed overnight. The solvent was evaporated and the residue was recrystallised from ethyl acetate/methanol (3:1) to yield a white solid (3.81 g, 61%). MS (ISP): 211.9 ([M+H]+).

reactant | S-phenyl-L-cysteine | 25.4 mmol, 5.0 g | C1(=CC=CC=C1)SC[C@H](N)C(=O)O | C9H11NO2S
reactant | acetylchloride | 38 mmol, 2.7 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 50 ml | CO | CH4O
product | (R)-2-Amino-3-phenylsulfanyl-propionic acid methyl ester hydrochloride | 3.81 g, 61% | Cl.COC([C@H](CSC1=CC=CC=C1)N)=O | InChI=1S/C10H13NO2S.ClH/c1-13-10(12)9(11)7-14-8-5-3-2-4-6-8;/h2-6,9H,7,11H2,1H3;1H/t9-;/m0./s1
